US05998429
B. N-Phenylcarbamic Acid 1-azabicyclo[2.2.2]octan-3-yl Ester
1-Azabicyclo[2.2.2]octan-3-ol and phenyl isocyanate were used. The residual solid resulting from the above described procedure was purified via column chromatography eluting with a 1:10 ratio of methanol:chloroform to afford the title compound (86%) as a white solid: NMR (CDCl3)δ7.60-7.0 (m, 5H, Ph), 4.81 (m, 1H, CH-OCO), 3.27 (m, 1H, one of NCH2C-O), 2.9 (m, 5H, N(CH2)2 and one of NCH2C-O), 2.1 (m, 1H, methine at C4), 2.05-1.30 (m, 4H, CH2 at C5 and C8); FAB LRMS m /z (relative intensity, %) 247 ([MH+ ], 100).

reactant | 1-Azabicyclo[2.2.2]octan-3-ol | N12CC(C(CC1)CC2)O | C7H13NO
reactant | phenyl isocyanate | C1(=CC=CC=C1)N=C=O | C7H5NO
product | N-Phenylcarbamic Acid 1-azabicyclo[2.2.2]octan-3-yl Ester | 86% | N12CC(C(CC1)CC2)OC(NC2=CC=CC=C2)=O | C14H18N2O2
